US07612075B2
B. (S)-1-(4-Aminoquinolin-7-ylmethyl)-4-[3-(5-chlorothiophen-2-yl)-allyl]-3-methylpiperazin-2-one.
(S)-1-(4-Chloroquinolin-7-ylmethyl)-4-[3-(5-chlorothiophen-2-yl)-allyl]-3-methylpiperazin-2-one(0.35 g, 0.82 mmol) is treated with phenol (2 g) and ammonium acetate (0.7 g, 9.1 mmol) and heated to 120° C. in a sealed vessel for 1 hour. Upon cooling, the solution is partitioned between 2 N NaOH and ethyl acetate. The organic layer is separated and washed with fresh 2 N NaOH (3×100 mL) and water. The organic layer is concentrated and the residue is purified by reverse phase HPLC to give the title compound as a white solid (0.15 g, 0.35 mmol). MS (ISP) m/z 427, 429, (M+H), Cl pattern.

reactant | (S)-1-(4-Chloroquinolin-7-ylmethyl)-4-[3-(5-chlorothiophen-2-yl)-allyl]-3-methylpiperazin-2-one | 0.82 mmol, 0.35 g | ClC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)CC=CC=1SC(=CC1)Cl)C)=O | C22H21Cl2N3OS
reactant | phenol | 2 g | C1(=CC=CC=C1)O | C6H6O
reactant | ammonium acetate | 9.1 mmol, 0.7 g | C(C)(=O)[O-].[NH4+]
product | (S)-1-(4-Aminoquinolin-7-ylmethyl)-4-[3-(5-chlorothiophen-2-yl)-allyl]-3-methylpiperazin-2-one | 0.35 mmol, 0.15 g | NC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)CC=CC=1SC(=CC1)Cl)C)=O | C22H23ClN4OS
